US07060697B2
Crude 4-[1,3]dioxan-2-yl-benzenethiol (0.9 mmol) is dissolved in DMF (15 mL, anhydrous). The solution is cooled to 0° C. followed by addition of NaH (76 mg, 1.8 mmol). After stirring for 30 min, the 4-bromomethyl-1-cyclohexyl-2-trifluoromethyl-benzene prepared above (0.8 mmol) dissolved in DMF (2 mL) is added dropwise via syringe. The mixture is stirred for 1 h, then poured into a mixture of ice and saturated aqueous NH4Cl. The aqueous phase is extracted with diethyl ether (3×30 mL). The combined organic layers are washed with saturated aqueous NaCl, dried over Na2SO4, and concentrated. The residue obtained is purified by silica gel chromatography (10% ethyl acetate in hexanes) to give 2-[4-(4-cyclohexyl-3-trifluoromethyl-benzylsulfanyl)-phenyl]-[1,3]dioxane as white solid.

reactant | 4-[1,3]dioxan-2-yl-benzenethiol | 0.9 mmol | O1C(OCCC1)C1=CC=C(C=C1)S | C10H12O2S
reactant | NaH | 1.8 mmol, 76 mg | [H-].[Na+]
reactant | 4-bromomethyl-1-cyclohexyl-2-trifluoromethyl-benzene | BrCC1=CC(=C(C=C1)C1CCCCC1)C(F)(F)F | C14H16BrF3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[4-(4-cyclohexyl-3-trifluoromethyl-benzylsulfanyl)-phenyl]-[1,3]dioxane | C1(CCCCC1)C1=C(C=C(CSC2=CC=C(C=C2)C2OCCCO2)C=C1)C(F)(F)F | C24H27F3O2S
